US07495006B2
9-[cis-3-(Benzyloxyethyl)cyclobutyl]adenine
In a 25 mL three-neck flask with trans-3-(benzyloxyethyl)cyclobutyl-mesylate (0.50 g, 1.76 mmol), adenine (0.35 g, 2.59 mmol) and Cs2CO3 (0.86 g, 2.64 mmol) inside, dry DMF 8 mL was added under argon. Then began to heat to 120° C. and after 24 hr, the solvent was removed and directly applied to silica gel flash chromatography to give 0.24 g (43%) the desired product. 1H NMR (CDCl3, 300 MHz): δ 1.84-1.92 (m, 2H), 2.16-2.46 (m, 3H), 2.68-2.80 (m, 2H), 3.48-3.52 (t, J=6.3, 2H), 4.51 (s, 2H), 4.80-4.92 (m, 1H), 7.88 (s, 1H), 8.35 (s, 1H). MS (FAB): expected for C18H21N5O (M+H)+ 324.39. Found 324.18195. IR (neat) νmax 3398, 2927, 2862, 1718, 1453, 1315, 1276, 1113, 1071, 1027, 738, 714, 698.

reactant | trans-3-(benzyloxyethyl)cyclobutyl-mesylate | 1.76 mmol, 0.50 g | C(C1=CC=CC=C1)OCC[C@@H]1C[C@H](C1)CS(=O)(=O)[O-]
reactant | adenine | 2.59 mmol, 0.35 g | N1=CN=C2N=CNC2=C1N | C5H5N5
reactant | Cs2CO3 | 2.64 mmol, 0.86 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 9-[cis-3-(Benzyloxyethyl)cyclobutyl]adenine | 0.24 g, 43% | C(C1=CC=CC=C1)OCC[C@H]1C[C@H](C1)N1C2=NC=NC(=C2N=C1)N | C18H21N5O
